US07776857B2
A solution of 2,2-dimethyl-5-((pyridin-4-ylamino)methylene)-1,3-dioxane-4,6-dione (1.149 g, 4.63 mmol) in diphenyl ether was heated at 200° C. for 20 min, then cooled to RT. Hexane was added and the mixture was stirred at RT for 30 mins. The solid was filtered off and washed with hexane to furnish 1,6-naphthyridin-4-ol as an off-brown solid.

reactant | 2,2-dimethyl-5-((pyridin-4-ylamino)methylene)-1,3-dioxane-4,6-dione | 4.63 mmol, 1.149 g | CC1(OC(C(C(O1)=O)=CNC1=CC=NC=C1)=O)C | C12H12N2O4
reactant | Hexane | CCCCCC | C6H14
solvent | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 1,6-naphthyridin-4-ol | N1=CC=C(C2=CN=CC=C12)O | C8H6N2O
